US04727080
Preparation of ethyl 6-fluoro-7-(pyrrol-1-yl)-1-cyclopropylmethyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (step D)
A mixture of 3.6 g (0.012 mol) of ethyl 6-fluoro-7-(pyrrol-1-yl)-4-hydroxyquinoline-3-carboxylate and 4.15 g (0.03 mol) of potassium carbonate in 30 ml of dimethlformamide is heated for 30 minutes at 80° C. and left to cool, 8 g (0.06 mol) of cyclopropylmethyl bromide are added, the mixture is kept for 12 hours at 90° C. and left to cool, 80 ml of a water/ice mixture are added and the precipitate formed is filtered off, washed with water and recrystallized from ethanol to give 2.65 g of a solid melting at 125°-127° C.

reactant | ethyl 6-fluoro-7-(pyrrol-1-yl)-4-hydroxyquinoline-3-carboxylate | 0.012 mol, 3.6 g | FC=1C=C2C(=C(C=NC2=CC1N1C=CC=C1)C(=O)OCC)O | C16H13FN2O3
reactant | potassium carbonate | 0.03 mol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropylmethyl bromide | 0.06 mol, 8 g | C1(CC1)CBr | C4H7Br
solvent | dimethlformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 6-fluoro-7-(pyrrol-1-yl)-1-cyclopropylmethyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 2.65 g | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)CC1CC1)C(=O)OCC)=O | C20H19FN2O3
